US05877120
Preparation of sodium 2-(4,6-dimethoxypyrimidin-2-ylcarbonyl)-4-(4-chlorophenyl)nicotinate (Compound No. 97)
0.4 g of 7-(4,6-dimethoxypyrimidin-2-yl)-4-(4-chlorophenyl)-7-hydroxyfuro[3,4-b]pyridin-5-(7H)one was dissolved in 100 m of toluene, and 0.05 g of 60% sodium hydride was added thereto. The mixture was stirred at room temperature for one day. The precipitated crystals were collected by filtration and sufficiently washed with acetone to obtain 0.25 g (yield 60%) of the desired compound. m.p.: 263°-267° C.

reactant | 7-(4,6-dimethoxypyrimidin-2-yl)-4-(4-chlorophenyl)-7-hydroxyfuro[3,4-b]pyridin-5-(7H)one | 0.4 g | COC1=NC(=NC(=C1)OC)C1(OC(C=2C1=NC=CC2C2=CC=C(C=C2)Cl)=O)O | C19H14ClN3O5
reactant | sodium hydride | 0.05 g | [H-].[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | sodium 2-(4,6-dimethoxypyrimidin-2-ylcarbonyl)-4-(4-chlorophenyl)nicotinate | 0.25 g, yield 60% | COC1=NC(=NC(=C1)OC)C(=O)C1=C(C(=O)[O-])C(=CC=N1)C1=CC=C(C=C1)Cl.[Na+] | InChI=1S/C19H14ClN3O5.Na/c1-27-13-9-14(28-2)23-18(22-13)17(24)16-15(19(25)26)12(7-8-21-16)10-3-5-11(20)6-4-10;/h3-9H,1-2H3,(H,25,26);/q;+1/p-1
